US06265424B1
B. Preparation of 4-Bromo-3-methyl-2-thiophene-carbonitrile
A mixture of 0.400 g (1.42 mmol) of 4,5-dibromo-3-methyl-2-thiophenecarbonitrile, 0.186 g (2.85 mmol) of zinc dust, 4 mL of acetic acid and 1 mL of water was heated at 100-105° C. for 45 minutes. After cooling, the solvents were removed under reduced pressure and the residue was dissolved in 10 mL of ether and washed with water (2×5 mL) and dilute, aqueous sodium carbonate solution (1×5 mL). After drying (sodium sulfate), the ether was removed on the rotovap to afford 0.276 g (96%) of an off-white solid: mp 54-58° C.; 1H NMR (CDCl3) 7.47 (s, 1H, ring-H) and 2.42 (s, 3H, CH3); GC-MS (EI) 201/203 (M+).

reactant | 4,5-dibromo-3-methyl-2-thiophenecarbonitrile | 1.42 mmol, 0.400 g | BrC=1C(=C(SC1Br)C#N)C | C6H3Br2NS
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.85 mmol, 0.186 g | [Zn] | Zn
solvent | water | 1 mL | O | H2O
product | 4-Bromo-3-methyl-2-thiophene-carbonitrile | 0.276 g, 96% | BrC=1C(=C(SC1)C#N)C | C6H4BrNS
